US08022063B2
[4-Bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester.
To a cooled (0° C.) solution of (2-acetyl-4-bromophenoxy)acetic acid ethyl ester (2.5 g, 8.3 mmol) in CHCl3 (25 mL) was slowly added bromine (425 uL, 8.3 mmol). After completion the reaction mixture was allowed to stir at room temperature for 1 hour. The mixture was partitioned between CH2Cl2 and brine. The organic phase was washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound as a white solid (2.97 g, 7.8 mmol, 94%): 1H NMR (CDCl3): δ 1.35 (t, 3H), 4.32 (q, 2H), 4.75 (s, 2H), 4.76 (s, 2H), 6.77 (d, 1H), 7.60 (dd, 1H), 7.97 (s, 1H)

reactant | (2-acetyl-4-bromophenoxy)acetic acid ethyl ester | 8.3 mmol, 2.5 g | C(C)OC(COC1=C(C=C(C=C1)Br)C(C)=O)=O | C12H13BrO4
reactant | bromine | 8.3 mmol, 425 uL | BrBr | Br2
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | [4-Bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | 7.8 mmol, 2.97 g, 94% | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
